US07420083B2
To a solution of 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-(3-bromo-propoxy)-benzoic acid methyl ester (0.53 g, 1.00 mmol) and 4-tert-butyl-benzaldehyde oxime (0.20 g, 1.10 mmol) in acetone (35 mL) was added cesium carbonate (1.30 g, 4.00 mmol). The mixture was heated to reflux overnight and then allowed to cool back to room temperature. The mixture was partitioned between ethyl acetate and brine and the layers were then separated. The aqueous layer was extracted with two additional portions of ethyl acetate. The organics were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude oil was purified by flash chromatography through silica gel using diethyl ether/hexanes (0/100 gradient to 5/95) to give 2-{[3,5-bis(trifluoromethyl)benzoyl]amino}-4-[3-({[(1E)-(4-tert-butylphenyl)methylidene]amino}oxy)propoxy]benzoic acid methyl ester (0.30 g, 48%) as an off-white solid. 1H NMR (400 MHz, CDCl3); δ 12.52 (s, 1H), 8.51 (d, 1H), 8.48 (s, 2H), 8.06 (s, 1H), 8.04 (s, 1H), 7.99 (d, 1H), 7.47-7.35 (AA′BB′, 4H), 6.67 (dd, 1H), 4.34 (t, 2H), 4.22 (t, 2H), 3.92 (s, 3H), 2.23 (m, 2H), 1.28 (s, 9H).

reactant | 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-(3-bromo-propoxy)-benzoic acid methyl ester | 1.00 mmol, 0.53 g | COC(C1=C(C=C(C=C1)OCCCBr)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C20H16BrF6NO4
reactant | 4-tert-butyl-benzaldehyde oxime | 1.10 mmol, 0.20 g | C(C)(C)(C)C1=CC=C(C=NO)C=C1 | C11H15NO
reactant | cesium carbonate | 4.00 mmol, 1.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 2-{[3,5-bis(trifluoromethyl)benzoyl]amino}-4-[3-({[(1E)-(4-tert-butylphenyl)methylidene]amino}oxy)propoxy]benzoic acid methyl ester | 0.30 g, 48% | COC(C1=C(C=C(C=C1)OCCCO/N=C/C1=CC=C(C=C1)C(C)(C)C)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C31H30F6N2O5
